US07723369B2
5-{3-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (59 mg, 0.1 mmol) was treated as described in general procedure G using trans-3-phenyl-1-propen-1-ylboronic acid (49 mg, 0.3 mmol) to give 5-(3-{4-(2,4-dichloro-phenyl)-2-[4-(3-phenyl-propenyl)-benzyl]-imidazol-1-yl}-phenyl)-1, 2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{3-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 59 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | trans-3-phenyl-1-propen-1-ylboronic acid | 0.3 mmol, 49 mg | C1(=CC=CC=C1)C/C=C/B(O)O | C9H11BO2
product | 5-(3-{4-(2,4-dichloro-phenyl)-2-[4-(3-phenyl-propenyl)-benzyl]-imidazol-1-yl}-phenyl)-1, 2,5-thiadiazolidine-3-one-1,1-dioxide | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C=1C=C(C=CC1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)C=CCC1=CC=CC=C1 | C33H26Cl2N4O3S
